US08754226B2
(S)-3-(2-Fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (Preparation E; 0.050 g, 0.14 mmol), 2-bromo-5-methoxypyrazine (0.032 g, 0.17 mmol), NaOtBu (0.041 g, 0.42 mmol), Pd(OAc)2 (0.005 g, 0.02 mmol), and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl (DavePHOS) (0.017 g, 0.042 mmol) were added to an argon-filled sealable flask. Toluene (1.5 mL) was added and the mixture was purged with bubbling argon for 5 minutes. The vessel was sealed and the mixture was stirred at 110° C. overnight. The mixture was cooled to ambient temperature, diluted with THF (12 mL), and stirred for 15 minutes. The mixture was filtered through GF/F paper and concentrated. The residue was purified by silica chromatography (EtOAc) to afford (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(1-(5-methoxypyrazin-2-yl)piperidin-4-yl)pyrrolidin-2-one (0.031 g, 0.067 mmol, 48% yield). Mass spectrum (apci) m/z=464.2 (M+H). Optical purity was not determined.

reactant | (S)-3-(2-Fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 0.14 mmol, 0.050 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C16H22FN3O3S
reactant | 2-bromo-5-methoxypyrazine | 0.17 mmol, 0.032 g | BrC1=NC=C(N=C1)OC | C5H5BrN2O
reactant | NaOtBu | 0.42 mmol, 0.041 g | CC(C)(C)[O-].[Na+]
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl | 0.042 mmol, 0.017 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | Pd(OAc)2 | 0.02 mmol, 0.005 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | Toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(1-(5-methoxypyrazin-2-yl)piperidin-4-yl)pyrrolidin-2-one | 0.067 mmol, 0.031 g, 48% yield | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCN(CC1)C1=NC=C(N=C1)OC)=O | C21H26FN5O4S
